US07723356B2
Qi) 2-Bromo-N-pyrimidin-4-yl-acetamide
To a stirred solution of 4-amino pyridine (12.0 g, 126 mmol) in DCM (192 ml) under an atmosphere of nitrogen is added triethylamine (23.1 ml, 164 mmol) and the resultant suspension is cooled to 0-5° C. To the cooled solution is added dropwise bromoacetic anhydride (42.6 g, 164 mmol) is DCM (48 ml) maintaining the temperature below 5° C. The resulting solid is filtered, washed with DCM and dried in vacuo to yield the titled compound.

reactant | 4-amino pyridine | 126 mmol, 12.0 g | NC1=CC=NC=C1 | C5H6N2
reactant | triethylamine | 164 mmol, 23.1 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetic anhydride | 164 mmol, 42.6 g | BrCC(=O)OC(CBr)=O | C4H4Br2O3
solvent | DCM | 192 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 48 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-pyrimidin-4-yl-acetamide | BrCC(=O)NC1=NC=NC=C1 | C6H6BrN3O
